US05458796
Preparation of 1-(2-chloro-2-propyl)-3,5-di-tert-butylbenzene.
The following procedure is conducted in a dry box under dry N2 atmosphere at -40° C. Into a 500 mL three-necked, round-bottomed flask equipped with mechanical stirrer are added 30 g (0.19 mole) cumyl chloride, 200 mL hexane, 200 mL methyl chloride, and 11.4 g (0.20 mole) isobutylene. With vigorous stirring, 50 g (0.43 mole) BCl3 is added rapidly to the mixture. After 10 minutes, 45 mL pre-chilled MeOH is added to terminate the reaction, and the reactor is removed from the dry-box. The MeCl2 is caused to evaporate as the contents of the reactor are allowed to warm to room temperature with stirring. The remaining mixture is washed twice with 200 mL of 0.5N aqueous HCl and twice with 200 mL distilled water and then dried over MgSO4. The product is isolated by evaporation of the hexane.

reactant | cumyl chloride | 0.19 mole, 30 g | C(C)(C)(C1=CC=CC=C1)Cl | C9H11Cl
reactant | methyl chloride | 200 mL | CCl | CH3Cl
reactant | isobutylene | 0.20 mole, 11.4 g | CC(C)=C | C4H8
reactant | BCl3 | 0.43 mole, 50 g | B(Cl)(Cl)Cl | BCl3
reactant | hexane | 200 mL | CCCCCC | C6H14
solvent | MeOH | CO | CH4O
product | 1-(2-chloro-2-propyl)-3,5-di-tert-butylbenzene | ClC(C)(C)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C17H27Cl
